US03962181
The reaction was carried out in the same manner as in Comparative Example 1 without employing sodium hydroxide. More specifically, after 122 gm (1.0 mole) of 2,6-dimethylphenol had been dissolved in 2200 gm of 1,2-dichloroethane and 32.5 gm (0.1 mole) of "Salcomine" had been added to the solution, oxygen was passed into the mixture at 30°C. The temperature of the reaction system was raised gradually, but it was maintained at 30°C by cooling. During the above procedure there was formed 3,3',5,5'-tetramethyldiphenoquinone. After 5 hours had passed, the reaction mixture was filtered, and the filtrate was poured into 20 liters of methanol containing 2 liters of hydrochloric acid but precipitation of a polymer was not observed. The amount of diphenoquinone obtained was 12.3 gm, the yield being 10.1%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,6-dimethylphenol | 1.0 mole, 122 gm | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | oxygen | O=O | O2
solvent | 1,2-dichloroethane | 2200 gm | ClCCCl | C2H4Cl2
catalyst | Salcomine | C1=CC=C(C(=C1)C=NCCN=CC2=CC=CC=C2[O-])[O-].[Co+2]
product | 3,3',5,5'-tetramethyldiphenoquinone | CC1=CC(=C2C=C(C(=O)C(=C2)C)C)C=C(C1=O)C | C16H16O2
